US06124323
1-[2-(4-Hydroxy-3-methylphenoxy)ethyl]-4-(4-fluorobenzyl)piperidine hydrochloride
The title compound was prepared from 4-(4-fluorobenzyl)piperidine hydrochloride (344 mg, 1.5 mmol), 2-(4-benzoxy-3-methylphenoxy)ethyl bromide (482 mg, 1.5 mmol) and potassium carbonate (518 mg, 3.8 mmol) in two steps as white-off solid (240 mg): mp 118-120° C. 1H NMR (CD3OD) 1.40 (m, 2 H), 1.699 (m, 3 H), 1.975 (s, 3 H), 2.441 (t, 2 H), 2.82 (m, 2 H), 3.310 (m, 2 H), 3.45 (m, 2 H), 4.054 (s, 2 H), 6.481 (s, 2 H), 6.753 (s, 1 H), 6.83 (m, 2 H), 7.021 (m, 2 H). Anal. Calcd for C21H27ClFNO2.0.7H2O: C, 64.25; H, 7.29; N, 3.57. Found: C, 64.24; H, 7.02; N, 3.91.

reactant | 4-(4-fluorobenzyl)piperidine hydrochloride | 1.5 mmol, 344 mg | Cl.FC1=CC=C(CC2CCNCC2)C=C1
reactant | 2-(4-benzoxy-3-methylphenoxy)ethyl bromide | 1.5 mmol, 482 mg | C(C1=CC=CC=C1)OC1=C(C=C(OCCBr)C=C1)C | C16H17BrO2
reactant | potassium carbonate | 3.8 mmol, 518 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(4-Hydroxy-3-methylphenoxy)ethyl]-4-(4-fluorobenzyl)piperidine hydrochloride | Cl.OC1=C(C=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)F)C=C1)C | InChI=1S/C21H26FNO2.ClH/c1-16-14-20(6-7-21(16)24)25-13-12-23-10-8-18(9-11-23)15-17-2-4-19(22)5-3-17;/h2-7,14,18,24H,8-13,15H2,1H3;1H
